US09315462B2
To a solution of 6-methoxyquinoline (2.00 g, 12.6 mmol) in AcOH (10 mL) was added H2O2 (30% in water, 1.9 mL, 18.9 mmol), the mixture was heated to 70° C. for 21 hours. The mixture was basified with 2M NaOH to pH 8-9 and extracted with CH2Cl2 (200 mL), the combined organic layer was washed with brine (50 mL), dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by silica gel column (EtOAc/MeOH=10/1) to give 6-methoxyquinoline 1-oxide (1.20 g, 55%) as a solid.

reactant | 6-methoxyquinoline | 12.6 mmol, 2.00 g | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
reactant | H2O2 | 18.9 mmol, 1.9 mL | OO | H2O2
reactant | NaOH | 2M | [OH-].[Na+]
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 6-methoxyquinoline 1-oxide | 1.20 g, 55% | COC=1C=C2C=CC=[N+](C2=CC1)[O-] | C10H9NO2
